US06388088B1
A suspension of N-(2-chloro-4-iodo-phenyl)-acetamide (2.39 g, 8.09 mmol) in acetonitrile (40 mL) at 25° C. was treated with methylene chloride (5 mL) to obtain a clear solution. The resulting solution was then treated with sodium azide (1.05 g, 16.18 mmol), and the reaction mixture was cooled to 0° C. The reaction mixture was then treated with trifluoromethanesulfonic anhydride (3.42 g, 12.13 mmol), and the resulting reaction mixture was allowed to warm to 25° C. where it was stirred overnight. The reaction mixture was then concentrated in vacuo. The residue was diluted with ethyl acetate (50 mL) and water (50 mL), and the two layers were separated. The aqueous layer was further extracted with ethyl acetate (1×30 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 4/1 hexanes/ethyl acetate) afforded 1-(2-chloro-4-iodo-phenyl)-5-methyl-1H-tetrazole (1.53 g, 59%) as a white solid: mp 128-130.5° C.; EI-HRMS m/e calcd for C8H6ClIN4 (M+) 319.9327, found 319.9325.

reactant | N-(2-chloro-4-iodo-phenyl)-acetamide | 8.09 mmol, 2.39 g | ClC1=C(C=CC(=C1)I)NC(C)=O | C8H7ClINO
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
reactant | sodium azide | 16.18 mmol, 1.05 g | [N-]=[N+]=[N-].[Na+]
reactant | trifluoromethanesulfonic anhydride | 12.13 mmol, 3.42 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-(2-chloro-4-iodo-phenyl)-5-methyl-1H-tetrazole | 1.53 g, 59% | ClC1=C(C=CC(=C1)I)N1N=NN=C1C | C8H6ClIN4
